US07906645B2
N-(3,4-Dichlorophenyl)-4-[(1-ethylpiperidin-3-yl)methyl]-1,4-diazepane-1-carboxamide
A mixture of tert-butyl 1,4-diazepane-1-carboxylate (81 mg), (1-ethylpiperidin-3-yl)methyl 4-methylbenzenesulfonate (100 mg) and potassium carbonate (186 mg) in acetonitrile (3 mL) was heated to 100° C. in the microwave for 1 hour 15 minutes. The mixture was filtered and evaporated. The residue was purified by silica column chromatography, eluting with a gradient of 0 to 5% 7M NH3/MeOH in dichloromethane. To a solution of the isolated material (100 mg) in methanol (5 mL) was added 4M hydrochloric acid in dioxane (2 mL). The mixture was stirred for 6 hours at room temperature and then evaporated to give a colourless oil. To a mixture of this oil (150 mg) in dichloromethane (10 mL) and dimethylformamide (1 mL) was added di-iso-propylethylamine (0.31 mL) and 3,4-dichlorophenylisocyanate (100 mg). The mixture was stirred for 15 minutes and then evaporated. The residue was purified using reverse phase HPLC eluting with a mixture of 5-95% acetonitrile in water to give the title compound as a white solid (78 mg, 56%).

reactant | tert-butyl 1,4-diazepane-1-carboxylate | 81 mg | N1(CCNCCC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | (1-ethylpiperidin-3-yl)methyl 4-methylbenzenesulfonate | 100 mg | CC1=CC=C(C=C1)S(=O)(=O)OCC1CN(CCC1)CC | C15H23NO3S
reactant | potassium carbonate | 186 mg | C([O-])([O-])=O.[K+].[K+]
reactant | di-iso-propylethylamine | 0.31 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3,4-dichlorophenylisocyanate | 100 mg | ClC=1C=C(C=CC1Cl)N=C=O | C7H3Cl2NO
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | N-(3,4-Dichlorophenyl)-4-[(1-ethylpiperidin-3-yl)methyl]-1,4-diazepane-1-carboxamide | 78 mg, 56% | ClC=1C=C(C=CC1Cl)NC(=O)N1CCN(CCC1)CC1CN(CCC1)CC | C20H30Cl2N4O
